US08383621B2
Step 2: 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-1-(morpholinomethyl)piperazin-2-one
Formaldehyde (37% in water, 30 μL, 0.32 mmol) and morpholine (28 μL, 0.32 mmol) were successively added to a solution of 4-[4-(4-ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-piperazin-2-one (which may be prepared in accordance with the experimental described in Example 7, step 1; 100 mg, 0.26 mmol) in a mixture of methanol/H2O (0.8 mL/0.8 mL). The mixture was stirred at 40° C. for 2 hours prior to the addition of more formaldehyde (37% in water, 30 μL, 0.4 mmol) and more morpholine (32 μL, 0.4 mmol). The reaction mixture was then stirred at 40° C. for two days. The reaction mixture was diluted by addition of ethyl acetate (20 mL) and water (20 mL). After separation, the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated under vacuum. The residue was purified by chromatography on silica gel, using dichloromethane/methanol (98:2 to 96:4) as eluent. The title product was obtained as a white solid (55 mg, 44%).

reactant | Formaldehyde | 0.32 mmol, 30 μL | C=O | CH2O
reactant | morpholine | 0.32 mmol, 28 μL | N1CCOCC1 | C4H9NO
reactant | 4-[4-(4-ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-piperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(NCC3)=O)C=C2)F)C=C1F)O | C19H18F2N2O4
reactant | formaldehyde | 0.4 mmol, 30 μL | C=O | CH2O
reactant | morpholine | 0.4 mmol, 32 μL | N1CCOCC1 | C4H9NO
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol H2O | 0.8 mL | CO.O
solvent | water | 20 mL | O | H2O
product | 4-[4-(4-Ethyl-5-fluoro-2-hydroxyphenoxy)-3-fluorobenzoyl]-1-(morpholinomethyl)piperazin-2-one | C(C)C1=CC(=C(OC2=C(C=C(C(=O)N3CC(N(CC3)CN3CCOCC3)=O)C=C2)F)C=C1F)O | C24H27F2N3O5
